US04152520
Preparation of 3-methyl-4-chloro-3,4-dihydro-2H-pyran-2-methanol acetate (chloroenol ether)
To a solution of 0.113 g. (0.53 mmol) of 3-methyl-6-ethoxy-3,6-dihydro-2H-pyran-2-methanol acetate in 2 ml. of ether at 0° was added 0.12 g. (1.0 mmol) of thionyl chloride. The mixture was stirred at 0° for 1 hour, at room temperature for 4.75 hours and concentrated to give 0.098 g. (103%) of the crude chloroenol-ether as a colorless oil (ca. 70% pure by nmr).

reactant | 3-methyl-6-ethoxy-3,6-dihydro-2H-pyran-2-methanol acetate | 0.53 mmol | C(C)(=O)OCC1OC(C=CC1C)OCC | C11H18O4
reactant | thionyl chloride | 1.0 mmol | S(=O)(Cl)Cl | Cl2OS
solvent | ether | CCOCC | C4H10O
product | 3-methyl-4-chloro-3,4-dihydro-2H-pyran-2-methanol acetate | C(C)(=O)OCC1OC=CC(C1C)Cl | C9H13ClO3
